US07109364B2
2. Synthesis of 9-methyl-2-decenoic Acid
In a similar reaction as in 1 above, 100 ml toluene, sodium (39.5 g, 1.72 mole), 7-methyl-octanoate (52 g, 0.29 mole), and 260 ml anhydrous methanol reacted to yield 7-methyl-1-octanol (44.3 g, yield rate 85%); 7-methyl-1-octanol (44.3 g, 0.31 mole) reacted with chloro-chromic pyridine (100 g, 0.465 mole) to yield 7-methyl-octanaldehyde (31 g, yield rate 70%); and finally, 7-methyl-octanaldehyde (20 g, 0.14 mole), malonic acid (15 g, 0.14 mole), and 15 ml pyridine were added together and refluxed with heating for 3 hours. After cooling down 15 ml 30% sulfuric acid was added and the reaction mixture was stirred for 3 hours under ice bath and then extracted by diethyl ether. Diethyl ether was removed by evaporation and product was subject to vacuum fractional distillation and 122° C./1.5 mmHg fraction was collected as 9-methyl-2-decenoic acid (16 g, yield rate 80%).

reactant | 7-methyl-octanaldehyde | 0.14 mole, 20 g | CC(CCCCCC=O)C | C9H18O
reactant | malonic acid | 0.14 mole, 15 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 9-methyl-2-decenoic Acid | CC(CCCCCC=CC(=O)O)C | C11H20O2
